US07723330B2
Step B: Preparation of 6-(1-(4-methoxybenzyl)-3-methyl-1H-pyrazolo[3,4-b]pyridin-4-yloxy)pyridin-3-amine:
A 25 mL round-bottomed flask was charged with 1-(4-methoxybenzyl)-3-methyl-4-(5-nitropyridin-2-yloxy)-1H-pyrazolo[3,4-b]pyridine (1.25 g, 3.19 mmol) and EtOH (10 mL). SnCl2 dihydrate (3.60 g, 16.0 mmol) was added under nitrogen and the reaction mixture was heated to 80° C. for 4 hours. The reaction mixture was cooled to room temperature, diluted with Na2CO3 (100 mL, 2N) and extracted with chloroform (2×100 mL). The organic layer was dried over sodium sulfate, filtered and concentrated to a dark oil. The crude material was purified on a Biotage 40S column, eluting with EtOAc, to provide the product (800 mg, 65%) as a green oil. 1H NMR (CDCl3, 400 MHz) δ 8.31 (d, J=5.1 Hz, 1H), 7.82 (m, 1H), 7.29 (m, 2H), 7.18 (m, 1H), 6.93 (d, J=8.6 Hz, 1H), 6.82 (m, 2H), 6.40 (d, J=5.5 Hz, 1H), 5.56 (s, 2H), 3.76 (m, 5H), 2.63 (s, 3H). LRMS (APCI pos) m/e 362 (M+1).

reactant | 1-(4-methoxybenzyl)-3-methyl-4-(5-nitropyridin-2-yloxy)-1H-pyrazolo[3,4-b]pyridine | 3.19 mmol, 1.25 g | COC1=CC=C(CN2N=C(C=3C2=NC=CC3OC3=NC=C(C=C3)[N+](=O)[O-])C)C=C1 | C20H17N5O4
reactant | EtOH | 10 mL | CCO | C2H6O
solvent | Na2CO3 | 2N, 100 mL | C(=O)([O-])[O-].[Na+].[Na+]
product | 6-(1-(4-methoxybenzyl)-3-methyl-1H-pyrazolo[3,4-b]pyridin-4-yloxy)pyridin-3-amine | 800 mg, 65% | COC1=CC=C(CN2N=C(C=3C2=NC=CC3OC3=CC=C(C=N3)N)C)C=C1 | C20H19N5O2
